### PR TITLE
Operations for bit representation of `Nat` and `BitVec`.

### PR DESCRIPTION
**Pull request by joehendrix**
This is a large PR that has operations for working with Nat and BitVec as functions from indices to Bool.  In particular it builds upon work in #314 and #358

### CODE REVIEW

File: Std/Data/BitVec/Basic.lean [hunk 1]
```diff
@@ -50,8 +50,18 @@ protected def ofNat (n : Nat) (i : Nat) : BitVec n where
...
+/-- Prove equality of bitvectors in terms of nat operations. -/
+theorem eq_of_toNat_eq {n} : ∀ {i j : BitVec n}, i.toNat = j.toNat → i = j
+  | ⟨_, _⟩, ⟨_, _⟩, rfl => rfl
+
+theorem toNat_eq (x y : BitVec n) : x = y ↔ x.toNat = y.toNat :=
+  Iff.intro (congrArg BitVec.toNat) eq_of_toNat_eq
+
 /-- Return the `i`-th least significant bit or `false` if `i ≥ w`. -/
-@[inline] def getLsb (x : BitVec w) (i : Nat) : Bool := x.toNat &&& (1 <<< i) != 0
+@[inline] def getLsb : BitVec w -> Nat -> Bool | ⟨x,_⟩, i => (x >>> i) % 2 == 1
```
Comment (digama0) [inline Std/Data/BitVec/Basic.lean:64]:
```suggestion
@[inline] def getLsb : BitVec w -> Nat -> Bool | ⟨x,_⟩, i => (x >>> i) % 2 != 0
```
Why `== 1` here? `!= 0` is easier both for proofs and for hardware.

File: Std/Data/BitVec/Basic.lean [hunk 2]
```diff
@@ -361,14 +374,29 @@ SMT-Lib name: `rotate_right` except this operator uses a `Nat` shift amount.
...
 
 SMT-Lib name: `concat`.
 -/
 def append (msbs : BitVec n) (lsbs : BitVec m) : BitVec (n+m) :=
-  .ofNat (n + m) (msbs.toNat <<< m ||| lsbs.toNat)
+  ⟨msbs.toNat <<< m, by
+    apply Nat.shiftLeft_lt_2_pow
+    simp only [Nat.add_sub_cancel]
+    exact msbs.isLt
+  ⟩ ||| zeroExtend' (n+m) lsbs (by apply Nat.le_add_left)
```
Comment (digama0) [inline Std/Data/BitVec/Basic.lean:396]: This first half looks like a definition that should be extracted

File: Std/Data/BitVec/Basic.lean [hunk 3]
```diff
@@ -361,14 +371,33 @@ SMT-Lib name: `rotate_right` except this operator uses a `Nat` shift amount.
 -/
 def rotateRight (x : BitVec w) (n : Nat) : BitVec w := x >>> n ||| x <<< (w - n)
 
+/--
+A version of `zeroExtend` that requires a proof, but is a noop.
+-/
+def zeroExtend' {n w:Nat} (le : n ≤ w) (x : BitVec n)  : BitVec w :=
```
Comment (semorrison) [inline Std/Data/BitVec/Basic.lean:377]:
```suggestion
def zeroExtend' {n w : Nat} (le : n ≤ w) (x : BitVec n) : BitVec w :=
```

Comment (semorrison) [reply Std/Data/BitVec/Basic.lean:377]: Also more below.

(Looking forward to that code formatter! :-)

File: Std/Data/BitVec/Bitblast.lean [hunk 4]
```diff
@@ -0,0 +1,180 @@
...
+institutional affiliations. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Harun Khan, Abdalrhman M Mohamed, Joe Hendrix
+-/
+import Std.Data.BitVec.Folds
+
+/-!
+# Bitblasting of bitvectors
+
+We prove the equivalence of a bitblasting operations and their `BitVec` implementation.
```
Comment (semorrison) [inline Std/Data/BitVec/Bitblast.lean:12]:
```suggestion
We prove the equivalence of bitblasting operations and their `BitVec` implementations.
```

File: Std/Data/BitVec/Bitblast.lean [hunk 5]
```diff
@@ -0,0 +1,180 @@
...
+
+## Main results
+* `BV_add`: Bitblasted addition `bitadd` is equivalent to `BitVec.add`.
```
Comment (semorrison) [inline Std/Data/BitVec/Bitblast.lean:15]: This name `BV_add` doesn't appear below.

File: Std/Data/BitVec/Bitblast.lean [hunk 6]
```diff
@@ -0,0 +1,180 @@
+/-
+Copyright (c) 2023 by the authors listed in the file AUTHORS and their
+institutional affiliations. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Harun Khan, Abdalrhman M Mohamed, Joe Hendrix
+-/
+import Std.Data.BitVec.Folds
+
+/-!
+# Bitblasting of bitvectors
```
Comment (semorrison) [inline Std/Data/BitVec/Bitblast.lean:10]: Could we have either at least one sentence, or a reference, for what exactly "bitblasting" means?

I know mathematicians are not meant to care about this file, but they may be curious. :-)

File: Std/Data/BitVec/Bitblast.lean [hunk 7]
```diff
@@ -0,0 +1,180 @@
...
+      exact x_lt
+    | inr x_ge =>
+      have ⟨j, ⟨j_ge, jp⟩⟩  := ge_two_pow_implies_high_bit_true x_ge
+      cases Nat.lt_or_eq_of_le j_ge with
+      | inr x_eq =>
+        simp [x_eq, jp] at xi
+      | inl x_lt =>
+        exfalso
+        apply Nat.lt_irrefl
+        exact
```
Comment (semorrison) [inline Std/Data/BitVec/Bitblast.lean:48]: You can omit the `exact` here, there is a tactic mode `calc`.

File: Std/Data/BitVec/Bitblast.lean [hunk 8]
```diff
@@ -0,0 +1,180 @@
...
+        Nat.mul_add_lt_is_or,
+        testBit_or,
+        testBit_mod_two_pow,
+        testBit_shiftLeft,
+        Nat.testBit_bool_to_nat,
+        Nat.sub_eq_zero_iff_le,
+        Nat.mod_lt,
+        Nat.pow_two_pos,
+        testBit_mul_pow_two
+        ]
```
Comment (semorrison) [inline Std/Data/BitVec/Bitblast.lean:68]:
```suggestion
  simp only [Nat.mul_add_lt_is_or, testBit_or, testBit_mod_two_pow, testBit_shiftLeft, 
    Nat.testBit_bool_to_nat, Nat.sub_eq_zero_iff_le, Nat.mod_lt, Nat.pow_two_pos,
    testBit_mul_pow_two]
```
would be the usual style, but it's not a hill I care about.

File: Std/Data/BitVec/Bitblast.lean [hunk 9]
```diff
@@ -0,0 +1,180 @@
...
+  cases xi : testBit x i with
+  | true =>
+    simp [testBit_implies_ge xi]
+  | false =>
+    simp
+    cases Nat.lt_or_ge x (2^i) with
+    | inl x_lt =>
+      exact x_lt
+    | inr x_ge =>
+      have ⟨j, ⟨j_ge, jp⟩⟩  := ge_two_pow_implies_high_bit_true x_ge
```
Comment (semorrison) [inline Std/Data/BitVec/Bitblast.lean:41]: `rcases` is nice:
```
    rcases Nat.lt_or_ge x (2^i) with x_lt | x_ge 
    · exact x_lt
    · have ⟨j, ⟨j_ge, jp⟩⟩  := ge_two_pow_implies_high_bit_true x_ge
```
Here it is only saving a few keystrokes and some vertical space, but it is a lovely tactic (you can destruct using patterns) that we shouldn't hesitate to use.

File: Std/Data/BitVec/Bitblast.lean [hunk 10]
```diff
@@ -0,0 +1,180 @@
...
+  | Or.inr (Or.inl i_eq_j) =>
+    simp [i_eq_j]
+  | Or.inr (Or.inr j_lt_i) =>
+    have j_le_i : j ≤ i := Nat.le_of_lt j_lt_i
+    have j_le_i_succ : j < i + 1 := Nat.succ_le_succ j_le_i
+    have not_j_ge_i : ¬(j ≥ i) := Nat.not_le_of_lt j_lt_i
+    simp [j_lt_i, j_le_i, not_j_ge_i, j_le_i_succ]
+
+private
+theorem mod_two_pow_lt (x i : Nat) : x % 2 ^ i < 2^i := Nat.mod_lt _ (Nat.pow_two_pos _)
```
Comment (semorrison) [inline Std/Data/BitVec/Bitblast.lean:87]: The usual Std practice is to put modifiers (e.g. `private`, `@[simp]`) on the same line, unless it results in really gross linewrapping.

Again, I don't particular mind if we relax this one.

File: Std/Data/BitVec/Bitblast.lean [hunk 11]
```diff
@@ -0,0 +1,180 @@
...
+          mul_le_add_right,
+          le_add_right,
+          Nat.not_le_of_lt,
+          Nat.add_succ,
+          Nat.succ_le_succ,
+          sum_bnd,
+          pred]
+
+theorem adc_value_step {i : Nat} (i_lt : i < w) (x y : BitVec w) (c : Bool)
+    : getLsb (x + y + zeroExtend w (ofBool c)) i =
```
Comment (semorrison) [inline Std/Data/BitVec/Bitblast.lean:136]: Colon goes at the end of the line.

File: Std/Data/BitVec/Folds.lean [hunk 12]
```diff
@@ -0,0 +1,62 @@
+import Std.Data.BitVec.Lemmas
+import Std.Data.Fin.Iterate
+import Std.Data.Nat.Lemmas
+
+namespace Std.BitVec
+
+/--
+`iunfoldr f a` returns
```
Comment (semorrison) [inline Std/Data/BitVec/Folds.lean:8]: Incomplete.

File: Std/Data/BitVec/Folds.lean [hunk 13]
```diff
@@ -0,0 +1,62 @@
...
+    (a : α)
+    (init : state 0 = a)
+    (step : ∀(i:Fin w), f i (state i.val) = (state (i.val+1), value.getLsb i.val))
+    : iunfoldr f a = (state w, BitVec.truncate w value) := by
+  apply Fin.hIterate_eq (fun i => ((state i, BitVec.truncate i value) : α × BitVec i))
+  case init =>
+    simp only [init, eq_nil]
+  case step =>
+    intro i
+    simp
```
Comment (semorrison) [inline Std/Data/BitVec/Folds.lean:45]: Nonterminal simp

File: Std/Data/BitVec/Folds.lean [hunk 14]
```diff
@@ -0,0 +1,62 @@
...
+    (ind : ∀(i:Fin w), (f i (state i.val)).fst = state (i.val+1))
+    : (iunfoldr f s).fst = state w := by
+  unfold iunfoldr
+  apply Fin.hIterate_elim (fun i (p : α × BitVec i) => p.fst = state i)
+  case init =>
+    exact init
+  case step =>
+    intro i ⟨s, v⟩ p
+    simp at p
+    simp [p, ind i]
```
Comment (semorrison) [inline Std/Data/BitVec/Folds.lean:29]:
```suggestion
    simp_all [ind i]
```

File: Std/Data/BitVec/Folds.lean [hunk 15]
```diff
@@ -0,0 +1,62 @@
...
+  case init =>
+    simp only [init, eq_nil]
+  case step =>
+    intro i
+    simp
+    apply And.intro
+    case left =>
+      simp [step]
+    case right =>
+      simp [step, truncate_succ]
```
Comment (semorrison) [inline Std/Data/BitVec/Folds.lean:50]:
```suggestion
    simp_all [truncate_succ]
```

File: Std/Data/BitVec/Folds.lean [hunk 16]
```diff
@@ -0,0 +1,62 @@
...
+    {w:Nat}
+    {f : Fin w → α → α × Bool}
+    (state : Nat → α)
+    (value : BitVec w)
+    (a : α)
+    (init : state 0 = a)
+    (step : ∀(i:Fin w), f i (state i.val) = (state (i.val+1), value.getLsb i.val))
+    : iunfoldr f a = (state w, value) := by
+  have h := iunfoldr.eq_test state value a init step
+  simp [h]
```
Comment (semorrison) [inline Std/Data/BitVec/Folds.lean:62]:
```suggestion
  simp [iunfoldr.eq_test state value a init step]
```
Unclear which one is clearer, but usually we don't hesitate putting medium sized terms directly into the arguments of `simp`.

File: Std/Data/BitVec/Lemmas.lean [hunk 17]
```diff
@@ -0,0 +1,189 @@
...
+  simp [testBit_toNat]
+  if i_lt : i < w then
+    exact pred ⟨i, i_lt⟩
+  else
+    have p : i ≥ w := Nat.le_of_not_gt i_lt
+    simp [getLsb_ge _ _ p]
+
+theorem eq_of_getMsb_eq {x y : BitVec w}
+    (pred : ∀(i:Fin w), x.getMsb i = y.getMsb i.val) : x = y := by
+  simp [getMsb] at pred
```
Comment (semorrison) [inline Std/Data/BitVec/Lemmas.lean:37]:
```suggestion
  simp only [getMsb] at pred
```

File: Std/Data/BitVec/Lemmas.lean [hunk 18]
```diff
@@ -0,0 +1,189 @@
...
+  apply eq_of_getLsb_eq
+  intro ⟨i, i_lt⟩
+  if w_zero : w = 0 then
+    simp [w_zero]
+  else
+    have w_pos := Nat.pos_of_ne_zero w_zero
+
+    have r : i ≤ w - 1 := by
+        simp [Nat.le_sub_iff_add_le w_pos, Nat.add_succ]
+        exact i_lt
```
Comment (semorrison) [inline Std/Data/BitVec/Lemmas.lean:47]:
```suggestion
    have r : i ≤ w - 1 := by
      simp [Nat.le_sub_iff_add_le w_pos, Nat.add_succ]
      exact i_lt
```
Usually it's just "two more spaces", never "enough spaces to line up with ...".

File: Std/Data/BitVec/Lemmas.lean [hunk 19]
```diff
@@ -0,0 +1,189 @@
...
+
+    have q_lt : w - 1 - i < w := by
+          simp [Nat.sub_sub]
+          apply Nat.sub_lt w_pos
+          simp [Nat.succ_add]
+    have q := pred ⟨w - 1 - i, q_lt⟩
+    simp [q_lt, Nat.sub_sub_self, r] at q
+    exact q
```
Comment (semorrison) [inline Std/Data/BitVec/Lemmas.lean:55]:
```suggestion
    simpa [q_lt, Nat.sub_sub_self, r] using q
```
Just golfing.

File: Std/Data/BitVec/Lemmas.lean [hunk 20]
```diff
@@ -0,0 +1,189 @@
...
+    let ⟨x, lt_n⟩ := x
+    unfold truncate
+    unfold zeroExtend
+    simp [BitVec.toNat, BitVec.ofNat]
+    if h : n ≤ m then
+      unfold zeroExtend'
+      have lt_m : x < 2 ^ m := lt_two_pow_of_le lt_n h
+      simp [h, lt_m, Nat.mod_eq_of_lt]
+    else
+      simp [h]
```
Comment (semorrison) [inline Std/Data/BitVec/Lemmas.lean:85]: Just two spaces indenting here.

File: Std/Data/BitVec/Lemmas.lean [hunk 21]
```diff
@@ -0,0 +1,189 @@
...
+theorem toNat_cons (b:Bool) (x : BitVec w)
+    : (cons b x).toNat = (b.toNat <<< w) ||| x.toNat := by
+    let ⟨x, _⟩ := x
+    simp [cons, toNat_append, toNat_ofBool]
+
+/-! ### cons -/
+
+theorem getLsb_cons (b:Bool) {n} (x : BitVec n) (i:Nat)
+    : getLsb (cons b x) i = if i = n then b else getLsb x i := by
+  simp [getLsb, toNat_cons, Nat.testBit_or]
```
Comment (semorrison) [inline Std/Data/BitVec/Lemmas.lean:103]: Nonterminal `simp`.

File: Std/Data/BitVec/Lemmas.lean [hunk 22]
```diff
@@ -0,0 +1,189 @@
...
+
+theorem getLsb_truncate (m : Nat) (x : BitVec n) (i : Nat)
+    : getLsb (truncate m x) i = (decide (i < m) && getLsb x i) :=
+  getLsb_zeroExtend m x i
+
+theorem truncate_succ (x : BitVec w)
+    : truncate (i+1) x = cons (getLsb x i) (truncate i x) := by
+  apply eq_of_getLsb_eq
+  intro j
+  simp [getLsb_truncate, getLsb_cons, j.isLt]
```
Comment (semorrison) [inline Std/Data/BitVec/Lemmas.lean:172]: Nonterminal simp

File: Std/Data/Fin/Iterate.lean [hunk 23]
```diff
@@ -0,0 +1,109 @@
...
+Concretely, `hIterate start stop f init` is equal to
+```lean
+  init |> f start _ |> f (start+1) _ ... |> f (end-1) _
+```
+
+Because it is heterogenous and must return a value of type `P stop`,
+`hIterate` requires proof that `start ≤ stop`.
+
+One can prove properties of `hIterate` using the general theorem
+`hIterate_elim` or other more specialzied theorems.
```
Comment (semorrison) [inline Std/Data/Fin/Iterate.lean:40]:
```suggestion
`hIterate_elim` or other more specialized theorems.
```

File: Std/Data/Fin/Iterate.lean [hunk 24]
```diff
@@ -0,0 +1,109 @@
...
+ -/
+def hIterate (P : Nat → Sort _)
+             {n : Nat}
+             (init : P 0)
+             (f : ∀(i:Fin n), P i.val → P (i.val+1))
+             : P n :=
```
Comment (semorrison) [inline Std/Data/Fin/Iterate.lean:46]: All just four spaces indented, no need to line things up.

File: Std/Data/Fin/Iterate.lean [hunk 25]
```diff
@@ -0,0 +1,109 @@
...
+    (s : P 0)
+    (init : Q 0 s)
+    (step : ∀(k:Fin n) (s:P k.val), Q k.val s → Q (k.val+1) (f k s))
+    : Q n (hIterate P s f) := by
+  exact hIterateFrom_elim _ _ _ _ init step
+
+/-
+`hIterate_eq`provides a mechanism for replacing hIterate with another
+function overshowing that the result of
+`hIterate` satisifies a property `Q stop` by showing that the states
```
Comment (semorrison) [inline Std/Data/Fin/Iterate.lean:95]:
```suggestion
`hIterate` satisfies a property `Q stop` by showing that the states
```

File: Std/Data/Fin/Iterate.lean [hunk 26]
```diff
@@ -0,0 +1,109 @@
...
+    (f : ∀(i:Fin n), P i.val → P (i.val+1))
+    (s : P 0)
+    (init : Q 0 s)
+    (step : ∀(k:Fin n) (s:P k.val), Q k.val s → Q (k.val+1) (f k s))
+    : Q n (hIterate P s f) := by
+  exact hIterateFrom_elim _ _ _ _ init step
+
+/-
+`hIterate_eq`provides a mechanism for replacing hIterate with another
+function overshowing that the result of
```
Comment (semorrison) [inline Std/Data/Fin/Iterate.lean:94]: "overshowing"?

File: Std/Data/Nat/Basic.lean [hunk 27]
```diff
@@ -126,3 +126,12 @@ where
     else
       guess
 termination_by iter guess => guess
+
+/-!
+### testBit
+We define an operation for testing individual bits in the binary representation
+of  a number.
```
Comment (semorrison) [inline Std/Data/Nat/Basic.lean:133]:
```suggestion
of a number.
```

File: Std/Data/Nat/Basic.lean [hunk 28]
```diff
@@ -126,3 +126,12 @@ where
...
+-/
+
+/-- `testBit m n` returns whether the `(n+1)ˢᵗ` least significant bit is `1` or `0`-/
```
Comment (semorrison) [inline Std/Data/Nat/Basic.lean:136]:
```suggestion
/-- `testBit m n` returns whether the `(n+1)`ˢᵗ least significant bit is `1` or `0`-/
```
(It's not code, so outside the code block? I'm also dubious the superscript helps readability.

File: Std/Data/Nat/Bitwise.lean [hunk 29]
```diff
@@ -0,0 +1,500 @@
...
+  apply Nat.add_mul_div_left _ _ Nat.zero_lt_two
+  rw [Nat.mul_one, ←Nat.sub_add_comm (Nat.pow_two_pos _)]
+  rw [ Nat.add_sub_assoc Nat.zero_lt_two ]
+  simp [Nat.pow_succ, Nat.mul_comm _ 2, Nat.mul_add_div]
+
+private
+theorem two_mul_sub_one (n:Nat) (n_pos : n > 0) : (2*n - 1) % 2 = 1 := by
+  match n with
+  | 0 => contradiction
+  | n + 1 => simp [Nat.mul_succ, Nat.mul_add_mod, mod_eq_of_lt]
```
Comment (semorrison) [inline Std/Data/Nat/Bitwise.lean:34]: Yay `omega`. :-)

File: Std/Data/Nat/Bitwise.lean [hunk 30]
```diff
@@ -0,0 +1,500 @@
...
+    else
+      apply hyp
+      exact Nat.div_lt_self n_pos (Nat.le_refl _)
+
+@[simp]
+theorem zero_and (x:Nat) : 0 &&& x = 0 := by rfl
+
+@[simp]
+theorem and_zero (x:Nat) : x &&& 0 = 0 := by
+  simp [HAnd.hAnd, AndOp.and, land]
```
Comment (semorrison) [inline Std/Data/Nat/Bitwise.lean:61]: Nonterminal simp

File: Std/Data/Nat/Bitwise.lean [hunk 31]
```diff
@@ -0,0 +1,500 @@
...
+  simp
+
+@[simp]
+theorem and_one_is_mod (x:Nat) : x &&& 1 = x % 2 := by
+  if xz : x = 0 then
+    simp [xz, zero_and]
+  else
+    have andz := and_zero (x/2)
+    simp [HAnd.hAnd, AndOp.and, land] at andz
+    simp [HAnd.hAnd, AndOp.and, land]
```
Comment (semorrison) [inline Std/Data/Nat/Bitwise.lean:72]: Nonterminal simp

File: Std/Data/Nat/Bitwise.lean [hunk 32]
```diff
@@ -0,0 +1,500 @@
...
+        apply Nat.add_le_add <;> exact hyp1
+      case neg =>
+        apply Nat.add_lt_add <;> exact hyp1
+
+/-! ### and -/
+
+theorem testBit_and (x y i : Nat) : (x &&& y).testBit i = (x.testBit i && y.testBit i) := by
+  simp [HAnd.hAnd, AndOp.and, land, testBit_bitwise ]
+
+theorem and_lt_2_pow (x : Nat) {y n : Nat} (right : y < 2^n) : (x &&& y) < 2^n := by
```
Comment (semorrison) [inline Std/Data/Nat/Bitwise.lean:388]:
```suggestion
theorem and_lt_two_pow (x : Nat) {y n : Nat} (right : y < 2^n) : (x &&& y) < 2^n := by
```

File: Std/Data/Nat/Lemmas.lean [hunk 33]
```diff
@@ -1173,22 +1200,71 @@ protected theorem dvd_of_mul_dvd_mul_right (kpos : 0 < k) (H : m * k ∣ n * k)
...
+| m, k + 1 => by
+  rw [shiftLeft_succ_inside _ (k+1)]
+  rw [shiftLeft_succ _ k, shiftLeft_succ_inside]
 
 @[simp] theorem shiftRight_zero : n >>> 0 = n := rfl
 
-@[simp] theorem shiftRight_succ (m n) : m >>> (n + 1) = (m >>> n) / 2 := rfl
+theorem shiftRight_succ (m n) : m >>> (n + 1) = (m >>> n) / 2 := rfl
+
+/-- Shiftleft on successor with division moved inside. -/
```
Comment (semorrison) [inline Std/Data/Nat/Lemmas.lean:1221]:
```suggestion
/-- Shiftright on successor with division moved inside. -/
```

File: Std/Data/BitVec/Bitblast.lean (hunk 7 above)
Comment (joehendrix) [reply Std/Data/BitVec/Bitblast.lean]: Thanks!

File: Std/Data/BitVec/Folds.lean (hunk 15 above)
Comment (joehendrix) [reply Std/Data/BitVec/Folds.lean]: Thanks!

**Comment by joehendrix** [comment]
@semorrison I think I've done all the changes you suggested.

File: Std/Data/Nat/Bitwise.lean [hunk 34]
```diff
@@ -0,0 +1,479 @@
...
+  simp [testBit_to_div_mod, Nat.pow_succ, Nat.mul_comm _ 2,
+        ←Nat.div_div_eq_div_mul _ 2, one_div_two,
+        Nat.mod_eq_of_lt]
+
+/-! ### bitwise -/
+
+theorem testBit_bitwise
+  (false_false_axiom : f false false = false) (x y i : Nat)
+: (bitwise f x y).testBit i = f (x.testBit i) (y.testBit i) := by
+  induction i using Nat.strongInductionOn generalizing x y with
```
Comment (eric-wieser) [inline Std/Data/Nat/Bitwise.lean:291]: This formatting looks pretty weird to me

File: Std/Data/BitVec/Lemmas.lean [hunk 35]
```diff
@@ -0,0 +1,167 @@
...
+import Std.Tactic.Simpa
+
+namespace Std.BitVec
+
+/-- Prove equality of bitvectors in terms of nat operations. -/
+theorem eq_of_toNat_eq {n} : ∀ {i j : BitVec n}, i.toNat = j.toNat → i = j
+  | ⟨_, _⟩, ⟨_, _⟩, rfl => rfl
+
+theorem toNat_eq (x y : BitVec n) : x = y ↔ x.toNat = y.toNat :=
+  Iff.intro (congrArg BitVec.toNat) eq_of_toNat_eq
```
Comment (eric-wieser) [inline Std/Data/BitVec/Lemmas.lean:14]: Mathlib has this lemma, but calls it `toNat_inj` and states it in reverse.

File: Std/Data/BitVec/Lemmas.lean [hunk 36]
```diff
@@ -0,0 +1,167 @@
...
+  unfold truncate
+  unfold zeroExtend
+  if h : n ≤ m then
+    unfold zeroExtend'
+    have lt_m : x < 2 ^ m := lt_two_pow_of_le lt_n h
+    simp [h, lt_m, Nat.mod_eq_of_lt, BitVec.toNat, BitVec.ofNat]
+  else
+    simp [h]
+
+theorem toNat_append (x : BitVec m) (y : BitVec n) : (x ++ y).toNat = x.toNat <<< n ||| y.toNat :=
```
Comment (eric-wieser) [inline Std/Data/BitVec/Lemmas.lean:78]: In mathlib this had arguments `msbs` and `lsbs` for clarity; it feels like a regression to rename them back to `x` and `y`.
